US08492397B2
To a solution of (2S)-1,1,1-trifluoropropan-2-yl (3S)-pyrrolidin-3-ylcarbamate (50 mg) in DMSO (5 ml) was added 2-chloro-6-methyl-N-(1H-pyrazol-3-yl)pyrimidin-4-amine (46 mg) prepared in Referential Example 1 and DIEA (28 mg) at room temperature. The resulting mixture was stirred at 110° C. for 15 hours and then cooled to room temperature. The mixture was purified with preparative RP-HPLC to give (2S)-1,1,1-trifluoropropan-2-yl{(3S)-1-[4-methyl-6-(1H-pyrazol-3-ylamino)pyrimidin-2-yl]pyrrolidin-3-yl}carbamate as a pale yellow solid.

reactant | (2S)-1,1,1-trifluoropropan-2-yl (3S)-pyrrolidin-3-ylcarbamate | 50 mg | N1C[C@H](CC1)NC(O[C@H](C(F)(F)F)C)=O | C8H13F3N2O2
reactant | 2-chloro-6-methyl-N-(1H-pyrazol-3-yl)pyrimidin-4-amine | 46 mg | ClC1=NC(=CC(=N1)NC1=NNC=C1)C | C8H8ClN5
reactant | DIEA | 28 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | (2S)-1,1,1-trifluoropropan-2-yl{(3S)-1-[4-methyl-6-(1H-pyrazol-3-ylamino)pyrimidin-2-yl]pyrrolidin-3-yl}carbamate | FC([C@H](C)OC(N[C@@H]1CN(CC1)C1=NC(=CC(=N1)C)NC1=NNC=C1)=O)(F)F | C16H20F3N7O2
